US04344941
1.0 g of 17β-acetoxy-1α-methyl-17α-n-propyl-5α-androstan-3-one is reacted as described in Example 6 with lithium tri-tert.-butoxyaluminum hydride and worked up. After chromatography on silica gel, 650 mg of 17β-acetoxy-1α-methyl-17α-n-propyl-5α-androstan-3β-ol is obtained as an oil.

reactant | 17β-acetoxy-1α-methyl-17α-n-propyl-5α-androstan-3-one | 1.0 g | C(C)(=O)O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C[C@@H]([C@]3(C)[C@H]1CC2)C)=O)CCC | C25H40O3
reactant | lithium tri-tert.-butoxyaluminum hydride | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
product | 17β-acetoxy-1α-methyl-17α-n-propyl-5α-androstan-3β-ol | 650 mg | C(C)(=O)O[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3C[C@H](C[C@@H]([C@]3(C)[C@H]1CC2)C)O)CCC | C25H42O3
